US05011932
Preparation of phenyl (4-pyridinylmethylene)carbazate monohydrochloride, Compound 101
A solution of 6.43 gm (0.06 mole) of 4-pyridinecarboxaldehyde, 11.31 gm (0.06 mole) of phenyl carbazate hydrochloride and 300 ml of 95% ethanol is refluxed 4 hr. The reaction mixture is evaporated to dryness. The crude product is suspended in 200 ml of boiling absolute ethanol and sufficient methanol added to give a solution. The hot solution is filtered, the filtrate cooled to room temperature and then chilled in the freezer. The crystals are collected, washed with Skellysolve B and dried to yield 11.0 gm (66%) of the title compound having a melting point of 224.4° C. (decomp).

reactant | 4-pyridinecarboxaldehyde | 0.06 mole, 6.43 gm | N1=CC=C(C=C1)C=O | C6H5NO
reactant | phenyl carbazate hydrochloride | 0.06 mole, 11.31 gm | Cl.C(NN)(=O)OC1=CC=CC=C1
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | phenyl (4-pyridinylmethylene)carbazate monohydrochloride | 11.0 gm, 66% | Cl.N1=CC=C(C=C1)C=NNC(=O)OC1=CC=CC=C1 | InChI=1S/C13H11N3O2.ClH/c17-13(18-12-4-2-1-3-5-12)16-15-10-11-6-8-14-9-7-11;/h1-10H,(H,16,17);1H
